### ISSUE TITLE
`induction` tactic swallows IDE diagnostics

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#12815]
### Prerequisites

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Here is some code:
```lean
namespace Nat

theorem base_induction {P : Nat → Prop} {n : Nat} (b : Nat) (hb : 1 < b) (single : ∀ m, m < b → P m)
    (digit : ∀ m k, k < b → P m → P (b * m + k)) : P n := by
  sorry

end Nat

theorem bar : 1 < 10 := by decide

theorem foo {n : Nat} : List.foldl (fun n c => n * 10 + (c.toNat - 48)) 0 (Nat.toDigits 10 n) = n := by
  induction n using Nat.base_induction 10 (by decide) with
  | single m hm =>
    skip
  | digit => sorry
```

When opening this code in VS Code or Lean 4 web, no diagnostics are shown on `foo`. Specifically, the `unsolved goals` error on the `single` arm of the induction is missing.

When you replace the `by decide` in the `using` clause of the induction by `bar`, then the error is shown as expected.

Also, when you replace the `sorry` in the `digit` arm by `done`, then both arms show an error as expected.

When compiling the code using `lake build`, the error is printed as expected.

**Expected behavior:** Unsolved goals error shows in the IDE

**Actual behavior:** Unsolved goals error is missing.

### Versions

`Lean 4.30.0-nightly-2026-03-05` on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
